US07592342B2
A solution of 5-bromo-3-pyridinamine (104 mmol) in dichloromethane (55 mL) was added dropwise over ˜60 min to a stirred solution of triethylamine (230 mmol) and 2,4-difluorobenzenesulfonyl chloride (235 mmol) in dichloromethane (300 mL). After 1.5 h, additional 2,4-difluorobenzenesulfonyl chloride (53.4 mmol) was added, and after 2 days, more 2,4-difluorobenzenesulfonyl chloride (47.0 mmol) and triethylamine (108 mmol) were added. After 1 h, the resulting mixture of mono- and bis-sulfonylation products was concentrated in vacuo and the residue was suspended in methanol (500 mL) and then filtered to provide N-(5-bromo-3-pyridinyl)-N-[(2,4-difluorophenyl)sulfonyl]-2,4-difluorobenzenesulfonamide as a white solid (54.4 mmol, 52%).

reactant | 5-bromo-3-pyridinamine | 104 mmol | BrC=1C=C(C=NC1)N | C5H5BrN2
reactant | triethylamine | 230 mmol | C(C)N(CC)CC | C6H15N
reactant | 2,4-difluorobenzenesulfonyl chloride | 235 mmol | FC1=C(C=CC(=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
reactant | 2,4-difluorobenzenesulfonyl chloride | 53.4 mmol | FC1=C(C=CC(=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
reactant | 2,4-difluorobenzenesulfonyl chloride | 47.0 mmol | FC1=C(C=CC(=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
reactant | triethylamine | 108 mmol | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 55 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | N-(5-bromo-3-pyridinyl)-N-[(2,4-difluorophenyl)sulfonyl]-2,4-difluorobenzenesulfonamide | 54.4 mmol, 52% | BrC=1C=C(C=NC1)N(S(=O)(=O)C1=C(C=C(C=C1)F)F)S(=O)(=O)C1=C(C=C(C=C1)F)F | C17H9BrF4N2O4S2
